US04772755
3-[2-(2-Methyl-1,3-dioxolan-2-yl)ethyl]-4-(phenylethynyl)phenyl acetate (Formula (I), X=CH3CO--)
4-Hydroxy-5-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-4-(phenylethynyl)-2-cyclohexen-1-one (3.0 g, 9.2 mmole, prepared in a manner similar to that in Example 7b) was dissolved in acetic anhydride (25 mL) and stirred at RT under argon. After stirring 5 hr at RT, the reaction mixture was heated to reflux overnight. The reaction mixture was cooled to RT, poured into about 100 mL of ether, about 200 mL of saturated sodium bicarbonate added and the solution stirred. After evolution of CO2 was complete, solid sodium bicarbonate was added cautiously until foaming ceased. The layers were separated, the aqueous layer extracted twice with 100 mL portions of ether, the ether layers combined, washed with two 100 mL portions of sodium bicarbonate solution, two 100 mL portions of ether, the ether layers combined, washed with two 100 mL portions of saturated sodium bicarbonate solution, two 100 mL portions of water and 75 mL of saturated brine. After drying over anhydrous sodium sulfate, the organic layer was filtered and concentrated in vacuo to give 3.2 g of the title compound, a dark orange oil.

reactant | 4-Hydroxy-5-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-4-(phenylethynyl)-2-cyclohexen-1-one | OC1(C=CC(CC1CCC1(OCCO1)C)=O)C#CC1=CC=CC=C1 | C20H22O4
reactant | ether | about 100 mL | CCOCC | C4H10O
reactant | sodium bicarbonate | about 200 mL | C([O-])(O)=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-[2-(2-Methyl-1,3-dioxolan-2-yl)ethyl]-4-(phenylethynyl)phenyl acetate | 3.2 g | C(C)(=O)OC1=CC(=C(C=C1)C#CC1=CC=CC=C1)CCC1(OCCO1)C | C22H22O4
